US04133814
A. 2-Phenylbenzothiophene
The above product was cyclized with accompanying isomerization of the phenyl group from the 3- to the 2-position of the benzothiophene product as follows: α-(phenylthio)acetophenone (63.8 g.) was added to 450 g. of polyphosphoric acid at 100° C. The mixture then was heated to 190° C. for 3 hours. Ice then was added to the reaction mixture. The product was extracted from the mixture with ether. The ether was dried over magnesium sulfate, and then was evaporated to a tan solid. The product was recrystallized from a mixture of acetone and alcohol to obtain 35.2 g. (60 percent) of the title compound, melting point 171°-172° C.

reactant | benzothiophene | S1C=CC2=C1C=CC=C2 | C8H6S
reactant | α-(phenylthio)acetophenone | 63.8 g | C1(=CC=CC=C1)SCC(=O)C1=CC=CC=C1 | C14H12OS
product | 2-Phenylbenzothiophene | 60 percent | C1(=CC=CC=C1)C=1SC2=C(C1)C=CC=C2 | C14H10S
